US05889026
N-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-3-chloro-propionamide
The title compound, m.p. 126° C. and MS: m/e=313 (M+), was prepared from 4-(tert-Butyl-dimethyl-silanyloxy)-phenylamine and 3-chloropropionyl chloride.

reactant | 4-(tert-Butyl-dimethyl-silanyloxy)-phenylamine | C(C)(C)(C)[Si](OC1=CC=C(C=C1)N)(C)C | C12H21NOSi
reactant | 3-chloropropionyl chloride | ClCCC(=O)Cl | C3H4Cl2O
product | N-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-3-chloro-propionamide | C(C)(C)(C)[Si](OC1=CC=C(C=C1)NC(CCCl)=O)(C)C | C15H24ClNO2Si
